US04002640
4 G. of 2-nitro-4-(2,2,3,3-tetrafluoropropylthio) aniline is treated with 24 g. of stannous chloride in 25 ml. on concentrated hydrochloric acid. The mixture is stirred for one-half hour, basified with ammonium hydroxide and extracted with chloroform. The chloroform solution is filtered, dried over sodium sulfate, and evaporated to give 1,2-diamino-4-(2,2,3,3-tetrafluoropropylthio) benzene.

reactant | 2-nitro-4-(2,2,3,3-tetrafluoropropylthio) aniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)SCC(C(F)F)(F)F | C9H8F4N2O2S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 1,2-diamino-4-(2,2,3,3-tetrafluoropropylthio) benzene | NC1=C(C=C(C=C1)SCC(C(F)F)(F)F)N | C9H10F4N2S
